spice
* SPICE netlist for the given schematic

* NMOS transistors
M1 2 4 1 1 NMOS
M3 4 2 3 3 NMOS
M5 3 1 9 9 NMOS

* PMOS transistors
M2 4 6 8 8 PMOS
M4 4 5 3 3 PMOS
M6 3 2 9 9 PMOS

* Resistors
RD1 7 4  RD
RD2 4 4  RD

* Current Source
ISS 9 0 DC

* Voltage definitions
VDD 7 0 DC
Vcont 4 0 DC
Vin 2 0 AC

.END